US08754100B2
Synthesis of phenyl (2-trifluoromethylphenyl)carbamate
2-Aminobenzotrifluoride (5 mL) and pyridine (6.44 mL) were dissolved in tetrahydrofuran (100 mL), and phenyl chloroformate (5.5 mL) was added dropwise under ice-cooling. After dropwise addition of the reagent, the mixture was brought back to room temperature and stirred for 4.5 hours. Water was added to the reaction solution and the mixture was concentrated under reduced pressure, followed by extraction with ethyl acetate. The resulting organic layer was washed with 2 N hydrochloric acid and brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (12.1 g). The property values of the compound are as follows.

reactant | 2-Aminobenzotrifluoride | 5 mL | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | pyridine | 6.44 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 5.5 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | phenyl (2-trifluoromethylphenyl)carbamate | 12.1 g | FC(C1=C(C=CC=C1)NC(OC1=CC=CC=C1)=O)(F)F | C14H10F3NO2
